US08304546B2
To a DMF solution (5 ml) of 2-furan-3-yl-5-propoxy-4H-benzo[f]quinolin-1-one (300 mg, 0.94 mmol) was added sodium hydride (60% oil base, 61 mg, 1.4 mmol), and then the mixture was stirred at room temperature for 5 minutes. Methyl iodide (181 mg, 1.27 mmol) was added thereto and the resulting mixture was stirred at room temperature for 62 hours. Water and ethyl acetate were added to the reaction mixture and the resulting mixture was subjected to separation. The thus-obtained organic layer was washed with water, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:ethyl acetate=90:1→80:1). The purified product was concentrated under reduced pressure to recrystallize the residue from ethyl acetate-n-hexane, giving a pale gray powder of 2-furan-3-yl-4-methyl-5-propoxy-4H-benzo[f]quinolin-1-one (130 mg, yield: 42%).

reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 2-furan-3-yl-5-propoxy-4H-benzo[f]quinolin-1-one | 0.94 mmol, 300 mg | O1C=C(C=C1)C1=CNC=2C(=CC3=C(C2C1=O)C=CC=C3)OCCC | C20H17NO3
reactant | sodium hydride | 1.4 mmol, 61 mg | [H-].[Na+]
reactant | Methyl iodide | 1.27 mmol, 181 mg | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-furan-3-yl-4-methyl-5-propoxy-4H-benzo[f]quinolin-1-one | 130 mg, yield: 42% | O1C=C(C=C1)C1=CN(C=2C(=CC3=C(C2C1=O)C=CC=C3)OCCC)C | C21H19NO3
